US06165942
Synthesis of 8-(4-chloro-5-(2-chloro-2-ethoxycarbonyl)ethyl-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (The compound No.54)
To a mixture of 8-(5-amino-4-chloro-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (1.5 g), copper(I) chloride (0.06 g) and acetone (30 ml) was added concentrated hydrochloric acid (1.13 g) and ethyl acrylate (5.0 g) under ice-cooled condition. Sodium nitrite (0.38 g) dissolved in water was added slowly under ice-cooled condition to the mixture, which was then stirred for 3 hours at room temperature. The reaction solution was poured into water and extracted with ethyl acetate. The extract layer was washed with diluted hydrochloric acid and water in this order, and dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a preparative thin-layer plate of silica gel (developing solvent: ethyl acetate/hexane=3/7) to give the compound of interest (0.5 g) as a pale yellow oil.

reactant | 8-(5-amino-4-chloro-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 1.5 g | NC=1C(=CC(=C(C1)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F)Cl | C13H7ClF4N4O
reactant | hydrochloric acid | 1.13 g | Cl | ClH
reactant | ethyl acrylate | 5.0 g | C(C=C)(=O)OCC | C5H8O2
reactant | Sodium nitrite | 0.38 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
catalyst | copper(I) chloride | 0.06 g | [Cu]Cl
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 8-(4-chloro-5-(2-chloro-2-ethoxycarbonyl)ethyl-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | ClC1=CC(=C(C=C1CCC(=O)OC(C)Cl)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C18H13Cl2F4N3O3
